US08067408B2
1,6-Diethyl-5-[(methylamino)methyl]-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine
To the solution of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine (0.303 g, 1.0 mmol) in THF (1 mL) was added Boc2O (0.229 g, 1.05 mmol) with stirring at room temperature for 30 min whereupon LAH (5.0 mL, 1.0 M in THF) was added and the mixture heated with a microwave at 100° C. for 30 min. The reaction was then quenched with Na2SO4 (sat. aq.), filtered, dried over Na2SO4, filtered, concentrated to afford the title compound 0.252 g (79%). LC-MS m/z 318 (M+H)+.

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine | 1.0 mmol, 0.303 g | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
reactant | Boc2O | 1.05 mmol, 0.229 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | LAH | 1.0 M, 5.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1,6-Diethyl-5-[(methylamino)methyl]-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 0.252 g, 79% | C(C)N1N=CC2=C1N=C(C(=C2NC2CCOCC2)CNC)CC | C17H27N5O
